US07423056B2
a.) 3-Thiophen-2-yl-acrylic acid methyl ester (Scheme 3)
Thiophene-2-carbaldehyde (4.00 g, 35.7 mmol) and [bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester (12.5 g, 39.3 mmol) were treated by the method outlined in Example 34, step a to afford the subtitle compound (4.5 g, yield: 75%). MS calculated for C8H8O2S+H: 169, observed: 169.

reactant | Thiophene-2-carbaldehyde | 35.7 mmol, 4.00 g | S1C(=CC=C1)C=O | C5H4OS
reactant | [bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester | 39.3 mmol, 12.5 g | COC(CP(=O)(OCC(F)(F)F)OCC(F)(F)F)=O | C7H9F6O5P
product | 3-Thiophen-2-yl-acrylic acid methyl ester | 4.5 g, yield: 75% | COC(C=CC=1SC=CC1)=O | C8H8O2S
